2175-11-07 07:30:00 Physician Resident Progress Note
Chief Complaint: Epidural abscess
   24 Hour Events:
 ARTERIAL LINE - START [**2175-11-6**] 01:58 PM
 INVASIVE VENTILATION - START [**2175-11-6**] 03:00 PM
 OR RECEIVED - At [**2175-11-6**] 04:00 PM
 NASAL SWAB - At [**2175-11-6**] 07:30 PM
   MRSA screen
 BLOOD CULTURED - At [**2175-11-6**] 08:22 PM
   BC  x 2 (Aline & Peripheral)
 BLOOD CULTURED - At [**2175-11-7**] 03:00 AM
   - Underwent laminectomy, 4 drains placed
   - Arrived to unit intubated, requiring minimal ventilatory support
   - HCT dropped from 32.9 to 22.5 postoperatively, transfused 1 unit
   PRBCs
   - Did not require pressors
   - ABx changed to naficillin as growing MSSA, ID asking for TEE
   - 8PM Neuro exam improved, no need for MRI.  If needed, will need to
   page [**Hospital1 12**] Neurosurgery on-call to coordinate re-programming of VP shunt
   if turned off by MRI.
   Patient unable to provide history: Sedated
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Lightheadedness
   Last dose of Antibiotics:
   Nafcillin - [**2175-11-7**] 04:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-11-7**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 88 (69 - 96) bpm
   BP: 139/67(96) {82/43(59) - 151/73(106)} mmHg
   RR: 17 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,408 mL
                                                                    372 mL
   PO:
             TF:
   IVF:
                                                                  4,398 mL
                                                                    372 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    817 mL
                                                                    570 mL
   Urine:
                                                                    712 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
                                                                    105 mL
                                                                     85 mL
   Balance:
                                                                  4,591 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 341 (0 - 341) mL
   RR (Set): 12
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 13 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.43/36/152/22/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   8.5 g/dL
   130 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   15 mg/dL
   109 mEq/L
   138 mEq/L
   25.5 %
   14.1 K/uL
        [image002.jpg]
                            [**2175-11-6**]  07:08 PM
                            [**2175-11-6**]  07:35 PM
                            [**2175-11-6**]  09:16 PM
                            [**2175-11-7**]  03:06 AM
   WBC
   15.1
   14.1
   Hct
   22.5
   25.5
   Plt
   175
   191
   Cr
   0.5
   0.5
   TCO2
   26
   25
   Glucose
   155
   130
   Other labs: PT / PTT / INR:14.7/28.6/1.3, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR:  perihilar fullness, RLL haziness
   Microbiology: [**2175-11-6**] 11:50 am SWAB      LUMBAR WOUND.
      GRAM STAIN (Final [**2175-11-6**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      WOUND CULTURE (Preliminary):
      ANAEROBIC CULTURE (Preliminary):
   ----
   BCxs [**11-6**] NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 EPIDUARL ABSCESS
   Assessment and Plan: 62 year old female with a history of multiple
   psychiatric disorders, alcohol abuse, multiple falls, s/p VP shunt
   placement in [**2169**] for subdural hematoma and left hip replacement in
   [**4-20**] who presents from [**Doctor Last Name **] House s/p fall on [**2175-10-29**] with worsening
   left hip pain found to be septic from multiple epidural abscesses and L
   knee septic arthritis, s/p laminectomy and L knee washout.
   # Septic shock from epidural abscesses and L septic arthritis in knee:
   Now s/p neurosurgery and L knee washout, which hopefully addressed the
   sources.  BCx growing MSSA.  TTE did not show no obvious vegetations
   but was of suboptimal quality.  Per neurosurgey, shunt does not need to
   be tapped.  For MRI, please page [**Hospital1 12**] [**Pager number 9606**] to program shunt.
   - cont naficillin, d/c vanc/CTX
   - surveillence blood cultures
   - neuro checks q1 hr
   - consider TEE though pt needs long course of abx
   - no HSQ x 24 hrs, no ASA per Neurosurg
   - LSO brace ordered
   - Orthopedics and Neurosurgery following, appreciate recs
   - ID following, appreciate recs
   # Respiratory distress:  CXR shows mild pulm edema, no sig.
   infiltrate.  Left intubated due to long surgery.  No difficulties with
   ventilation.
   - cont. with minimal ventilatory support
   - propofol to assess neuro exam
   - extubate if no further surgery or MRI needed
   # Hyponatremia:  Initial urine electrolytes after IVFs revealed low
   urine sodium and mildly elevated urine osms and improved after IVFs
   suggesting hypovolemia hyponatremia.  Currently resolved.
   - monitor sodium
   - IVF hydration prn
   # Anemia: Baseline hematocrit 30-35. Normocytic. Likely related to bone
   marrow suppression from sepsis (low retic count) in setting of alcohol
   use and liver disease. Labs are notable for a low iron, elevated
   ferritin and low iron to TIBC ratio. She has no evidence of hemolysis.
   B12 and folate are normal.  She received 2 units of PRBCs on [**11-5**],
   another 1 unit on [**11-6**].
   - monitor hematocrit for now
   - guaiac all stools
   - consider iron supplements
   # Alcohol Abuse: History is unclear. [**Name2 (NI) **] primary physician is concerned
   for alcohol withdrawal.  Currently not tachycardic, hypertensive.
   - monitor vital signs
   - currently on propofol
   - continue home thiamine, folate, multivitamins
   # Depression/Anxiety/OCD:
   - continue fluoxetine 30 mg daily
   - hold lorazepam as on propofol
   - continue mirtazapine 30 mg QHS
   # Chronic Constipation:
   - continue colace, metamucil, senna
   # Hypertension:
   - hold all antihypertensives
   FEN: IVFs prn, replete electrolytes, NPO
   Prophylaxis: pneumoboots, subutaneous heparin being held for 24 hours
   Access: PIVs
   Code: Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: NPO in anticipation of extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2175-11-6**] 01:58 PM
   16 Gauge - [**2175-11-6**] 04:19 PM
   18 Gauge - [**2175-11-6**] 04:20 PM
   20 Gauge - [**2175-11-6**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2175-11-07 09:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo female with EtOH abuse, VP shunt, frequent falls admitted with
   MSSA epidural abscess and left septic arthritis s/p laminectomy and
   knee washout. Remained intubated due to length of procedure and
   potential need for re-operation.
   24 Hour Events:
   S/p laminectomy
   1 unit PRBC
   Neo in OR
   Antibiotics changed to nafcillin
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Lightheadedness
   Last dose of Antibiotics:
   Nafcillin - [**2175-11-7**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Senna, Psyllium, Remeron, Insulin SS, Bisacodyl, PEG, Colace, Thiamine,
   MV, Folate, Tums, Prozac, Vitamin D, Ranitidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-11-7**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 91 (69 - 96) bpm
   BP: 141/71(99) {82/43(59) - 151/73(106)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,408 mL
                                                                    497 mL
   PO:
             TF:
   IVF:
                                                                  4,398 mL
                                                                    497 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    817 mL
                                                                    675 mL
   Urine:
                                                                    712 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
                                                                    105 mL
                                                                     85 mL
   Balance:
                                                                  4,591 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 419 (0 - 419) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 6 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.46/34/105/22/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), Loud SEM.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Coarse )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: None, Left lower extremity
   edema: None
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   191 K/uL
   130 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   15 mg/dL
   109 mEq/L
   138 mEq/L
   25.5 %
   14.1 K/uL
        [image002.jpg]
                            [**2175-11-6**]  07:08 PM
                            [**2175-11-6**]  07:35 PM
                            [**2175-11-6**]  09:16 PM
                            [**2175-11-7**]  03:06 AM
                            [**2175-11-7**]  08:46 AM
   WBC
   15.1
   14.1
   Hct
   22.5
   25.5
   Plt
   175
   191
   Cr
   0.5
   0.5
   TCO2
   26
   25
   25
   Glucose
   155
   130
   Other labs: PT / PTT / INR:14.7/28.6/1.3, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: Clear.  ET tube/NG tube well positioned.  VP shunt below
   diaphragm.
   Microbiology: MSSA in blood/knee/epidural abscess
   Assessment and Plan
   62 yo female with EtOH abuse, VP shunt, frequent falls admitted with
   MSSA epidural abscess and left septic arthritis s/p laminectomy and
   knee washout
   1.       MSSA sepsis: hopefully improved source control following
   laminectomy/wash out. No pressor requirment.
   *Abx scaled to nafcillin based on sensitivities
 plan for 6 weeks of
   antibiotics.
   *Ortho/neurosurgery/ID following
   *Check surveillance blood cultures to see if bactermia has cleared
   negative from yesterday so far
   *Echo suboptimal, though has established nidus of infection elsewhere.
   ID recommendingTEE at some point to r/o endocarditis/abscess- this was
   unable to be done today because while the pt is  intubated, she cannot
   consent. She does not have a health care proxy available for consent
   *PICC once bacteremia cleared
   2.       Acute respiratory failure: intubated for surgery, remains on
   mechanical ventilation.
   *Propofol for sedation- will discontinue
   *Passed SBT
 plan to extubate today
   3.       EtOH abuse: no s/sx of EtOH withdrawal during 1st 3-4 days of
   hospitalization. Will monitor in ICU. Received banana bag
   4.       Depression/anxiety/OCD: resume psych meds
   5.      Chronic constipation:  Bowel regimen.
   ICU Care
   Nutrition:
   Comments: NPO for possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2175-11-6**] 01:58 PM
   16 Gauge - [**2175-11-6**] 04:19 PM
   18 Gauge - [**2175-11-6**] 04:20 PM
   20 Gauge - [**2175-11-6**] 04:20 PM
   Prophylaxis:
   DVT: Boots/SCD on R, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2175-11-08 07:52:00 Physician Resident Progress Note
Chief Complaint: Epidural abscesses
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2175-11-7**] 01:10 PM
   - because patient still intubated, unable to consent for TEE and could
   not reach a HCP, so unable to do TEE
   - extubated
   History obtained from Patient
   Allergies:
   History obtained from PatientDarvon (Oral) (Propoxyphene Hcl)
   Lightheadedness
   Last dose of Antibiotics:
   Nafcillin - [**2175-11-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2175-11-7**] 04:45 PM
   Morphine Sulfate - [**2175-11-8**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Pain is mostly in the mid back.  No SOB, CP, N/V,
   abd pain.
   Flowsheet Data as of  [**2175-11-8**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 83 (83 - 104) bpm
   BP: 101/49(68) {90/44(59) - 178/94(130)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,658 mL
                                                                    994 mL
   PO:
                                                                  1,680 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    978 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,663 mL
                                                                    430 mL
   Urine:
                                                                  1,533 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
   Balance:
                                                                    995 mL
                                                                    564 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (419 - 419) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.46/34/105/24/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: edentulous
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, hospital, [**2175-10-12**], Movement:
   Purposeful, Tone: Not assessed, R hand grip weak but stronger than L
   hand grip, 4+ arm flexion > extension, 4+ delotid, 3+ R hip, 3 L hip, 5
   distal BLEs
   Labs / Radiology
   342 K/uL
   8.5 g/dL
   85 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.2 mEq/L
   18 mg/dL
   103 mEq/L
   133 mEq/L
   25.7 %
   19.1 K/uL
        [image002.jpg]
                            [**2175-11-6**]  07:08 PM
                            [**2175-11-6**]  07:35 PM
                            [**2175-11-6**]  09:16 PM
                            [**2175-11-7**]  03:06 AM
                            [**2175-11-7**]  08:46 AM
                            [**2175-11-7**]  06:20 PM
                            [**2175-11-8**]  01:03 AM
   WBC
   15.1
   14.1
   19.1
   Hct
   22.5
   25.5
   26.2
   25.7
   Plt
   175
   191
   342
   Cr
   0.5
   0.5
   0.6
   TCO2
   26
   25
   25
   Glucose
   155
   130
   85
   Other labs: PT / PTT / INR:14.7/28.4/1.3, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Microbiology: BCxs since [**11-6**] NGTD.
   Assessment and Plan
 BACTEREMIA
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 EPIDUARL ABSCESS
   Assessment and Plan: 62 year old female with a history of multiple
   psychiatric disorders, alcohol abuse, multiple falls, s/p VP shunt
   placement in [**2169**] for subdural hematoma and left hip replacement in
   [**4-20**] who presents from [**Doctor Last Name **] House s/p fall on [**2175-10-29**] with worsening
   left hip pain found to be septic from multiple epidural abscesses and L
   knee septic arthritis, s/p laminectomy and L knee washout.
   # Septic shock from epidural abscesses and L septic arthritis in knee:
   Now s/p neurosurgery and L knee washout, which hopefully addressed the
   sources.  BCx growing MSSA.  TTE did not show no obvious vegetations
   but was of suboptimal quality.  For MRI, please page [**Hospital1 12**] [**Pager number 9606**] to
   program shunt.  Per neurosurgey, shunt does not need to be tapped.
   - cont naficillin, d/c vanc/CTX
   - surveillence blood cultures
   - neuro checks q1 hr
   - plan for TEE though pt needs long course of abx
   - no HSQ until [**11-9**], no ASA per Neurosurg
   - LSO brace when out of bed
   - Orthopedics and Neurosurgery following, appreciate recs
   - ID following, appreciate recs
   # Hyponatremia:  Initial urine electrolytes after IVFs revealed low
   urine sodium and mildly elevated urine osms and improved after IVFs
   suggesting hypovolemia hyponatremia.  Currently resolved.
   - monitor sodium
   - IVF hydration prn
   # Anemia: Baseline hematocrit 30-35. HCT currently stable after
   receiving 2 units of PRBCs on [**11-5**], another 1 unit on [**11-6**].  Likely
   related to OR loss and bone marrow suppression from sepsis (low retic
   count) in setting of alcohol use and liver disease. Labs are notable
   for a low iron, elevated ferritin and low iron to TIBC ratio. She has
   no evidence of hemolysis. B12 and folate are normal.
   - monitor hematocrit for now
   - guaiac all stools
   - consider iron supplements
   # Alcohol Abuse: History is unclear. [**Name2 (NI) **] primary physician is concerned
   for alcohol withdrawal.  Currently not tachycardic, hypertensive.
   - monitor vital signs
   - continue home thiamine, folate, multivitamins
   - SW
   # Depression/Anxiety/OCD:
   - continue fluoxetine 30 mg daily
   - continue mirtazapine 30 mg QHS
   - lorazepam prn
   # Chronic Constipation:
   - continue colace, metamucil, senna
   # Hypertension:
   - hold all antihypertensives
   FEN: IVFs prn, replete electrolytes, ADAT
   Prophylaxis: pneumoboots, subutaneous heparin being held until [**11-9**]
   Access: PIVs, D/C aline
   Code: Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2175-11-6**] 01:58 PM
   16 Gauge - [**2175-11-6**] 04:19 PM
   18 Gauge - [**2175-11-6**] 04:20 PM
   20 Gauge - [**2175-11-6**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2175-11-08 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Neurosurg d/c'ed drains this am.
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Lightheadedness
   Last dose of Antibiotics:
   Nafcillin - [**2175-11-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2175-11-7**] 04:45 PM
   Morphine Sulfate - [**2175-11-8**] 09:21 AM
   Other medications:
   Senna, Metamucil, Mertazipine, RISS (no coverage needed), [**Last Name (LF) 9630**], [**First Name3 (LF) 1023**],
   Docusate, Thiamine, MV, Folate, Calcium, Fluoxetine, Vit D, Morphine
   prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-11-8**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 96 (83 - 104) bpm
   BP: 126/59(84) {90/44(59) - 178/94(130)} mmHg
   RR: 15 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,658 mL
                                                                  1,523 mL
   PO:
                                                                  1,680 mL
                                                                  1,120 mL
   TF:
   IVF:
                                                                    978 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  1,663 mL
                                                                    690 mL
   Urine:
                                                                  1,533 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
   Balance:
                                                                    995 mL
                                                                    833 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   342 K/uL
   85 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.2 mEq/L
   18 mg/dL
   103 mEq/L
   133 mEq/L
   25.7 %
   19.1 K/uL
        [image002.jpg]
                            [**2175-11-6**]  07:08 PM
                            [**2175-11-6**]  07:35 PM
                            [**2175-11-6**]  09:16 PM
                            [**2175-11-7**]  03:06 AM
                            [**2175-11-7**]  08:46 AM
                            [**2175-11-7**]  06:20 PM
                            [**2175-11-8**]  01:03 AM
   WBC
   15.1
   14.1
   19.1
   Hct
   22.5
   25.5
   26.2
   25.7
   Plt
   175
   191
   342
   Cr
   0.5
   0.5
   0.6
   TCO2
   26
   25
   25
   Glucose
   155
   130
   85
   Other labs: PT / PTT / INR:14.7/28.4/1.3, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:5.0 %, Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: No new imaging.
   Microbiology: Blood cultures negative since [**11-6**].
   Assessment and Plan
   62 yo female with EtOH abuse, VP shunt, frequent falls admitted with
   MSSA epidural abscess and left septic arthritis s/p laminectomy and
   knee washout
    #.       MSSA sepsis: hopefully improved source control following
   laminectomy/wash out. No pressor requirment.
   *Abx scaled to nafcillin based on sensitivities
 plan for 6 weeks of
   antibiotics.
   *Ortho/neurosurgery/ID following
   *Check surveillance blood cultures to see if bactermia has cleared
   negative from yesterday so far
   *Echo suboptimal, though has established nidus of infection elsewhere.
   ID recommendingTEE at some point to r/o endocarditis/abscess- this was
   unable to be done today because while the pt is  intubated, she cannot
   consent. She does not have a health care proxy available for consent
   *PICC once bacteremia cleared
   #.       Acute respiratory failure: intubated for surgery, remains on
   mechanical ventilation.
   *Propofol for sedation- will discontinue
   *Passed SBT
 plan to extubate today
   #.       EtOH abuse: no s/sx of EtOH withdrawal during 1st 3-4 days of
   hospitalization. Will monitor in ICU. Received banana bag
   #.       Depression/anxiety/OCD: resume psych meds
   #.      Chronic constipation:  Bowel regimen.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2175-11-6**] 01:58 PM
   16 Gauge - [**2175-11-6**] 04:19 PM
   18 Gauge - [**2175-11-6**] 04:20 PM
   20 Gauge - [**2175-11-6**] 04:20 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes